US07638515B2
E/Z-4-(2-Fluoro-3-methoxyphenyl)-4-methylpent-2-enoic acid methyl ester
20.26 g (111.26 mmol) of phosphonoacetic acid trimethyl ester is introduced into 68 ml of tetrahydrofuran. At 0° C., 61 ml of a 2 M solution of LDA in THF/heptane/ethylbenzene is added in drops. After 45 minutes of stirring, 21.83 g (111.26 mmol) of 2-(2-fluoro-3-methoxyphenyl)-2-methylpropanal, dissolved in 68 ml of tetrahydrofuran, is added in drops at 0° C. After stirring overnight, the reaction mixture is mixed with water while being cooled in an ice bath, and it is extracted three times with methyl tert-butyl ether. The combined organic extracts are treated as usual, and the residue that is obtained is chromatographed on silica gel (mobile solvent ethyl acetate/hexane). 23.30 g (75.8%) of the desired compound is isolated.

reactant | phosphonoacetic acid trimethyl ester | 111.26 mmol, 20.26 g | COC(=O)CP(=O)(OC)OC | C5H11O5P
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | 2-(2-fluoro-3-methoxyphenyl)-2-methylpropanal | 111.26 mmol, 21.83 g | FC1=C(C=CC=C1OC)C(C=O)(C)C | C11H13FO2
reactant | water | O | H2O
solvent | THF heptane ethylbenzene | C1CCOC1.CCCCCCC.C(C)C1=CC=CC=C1
solvent | tetrahydrofuran | 68 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 68 ml | O1CCCC1 | C4H8O
product | Z-4-(2-Fluoro-3-methoxyphenyl)-4-methylpent-2-enoic acid methyl ester | 23.30 g, 75.8% | COC(\C=C/C(C)(C)C1=C(C(=CC=C1)OC)F)=O | C14H17FO3
